US08372807B2
A mixture of ethyl 2-methyl-2-(1-(naphthalen-1-yl)-1H-pyrazol-5-ylthio)propanoate (124 mg, 0.36 mmol), aqueous sodium hydroxide solution (10%, 5 mL) and methanol (5 mL) was stirred at reflux for 2 hours. The reaction was then cooled to room temperature and the methanol removed. Water was added, neutralized with 1N HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated. Purification by preparative thin layer chromatography (95% dichloromethane/5% methanol) afforded 2-methyl-2-(1-(naphthalen-1-yl)-1H-pyrazol-5-ylthio)propanoic acid as a solid.

reactant | ethyl 2-methyl-2-(1-(naphthalen-1-yl)-1H-pyrazol-5-ylthio)propanoate | 0.36 mmol, 124 mg | CC(C(=O)OCC)(C)SC1=CC=NN1C1=CC=CC2=CC=CC=C12 | C19H20N2O2S
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-methyl-2-(1-(naphthalen-1-yl)-1H-pyrazol-5-ylthio)propanoic acid | CC(C(=O)O)(C)SC1=CC=NN1C1=CC=CC2=CC=CC=C12 | C17H16N2O2S
